US07618960B2
Synthesis of ethyl [(2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidin-1-yl]oxoacetate
Ethyl oxalate chloride (0.5 mL) was added to a solution of (2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidine (520 mg) and DIEA (0.66 mL) in methylene chloride (10 mL), and the reaction solution was stirred at room temperature for one hour. Chloroform and 1 N aqueous hydrochloric acid were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with saturated sodium bicarbonate water, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane->heptane:ethyl acetate=1:1) to obtain 426 mg of the title compound. The property value of the compound is as follows.

reactant | Ethyl oxalate chloride | 0.5 mL | [Cl-].C(C(=O)[O-])(=O)OCC
reactant | (2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidine | 520 mg | FC1=CC=C(C=C1)[C@@H]1N[C@@H](CCC1)C=C | C13H16FN
reactant | DIEA | 0.66 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl [(2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidin-1-yl]oxoacetate | 426 mg | FC1=CC=C(C=C1)[C@@H]1N([C@@H](CCC1)C=C)C(C(=O)OCC)=O | C17H20FNO3
